US08497368B2
6-[6-(1-Ethoxy-vinyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-5,7-difluoro-quinoline (40.3)
A solution of 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-5,7-difluoro-quinoline (58 mg, 0.175 mmol) in dioxane (5 mL) was purged with argon for 1 min. Tributyl-(1-ethoxy-vinyl)stannane (0.2 mL, 0.53 mmol) was then added, followed by addition of PdCl2(PPh3)2 (14.4 mg, 0.021 mmol). The reaction mixture was purged with argon for another half min. The reaction mixture was stirred at 80-85° C. for 4 h; LC/MS showed the reaction was complete. The reaction mixture was diluted with EtOAc, and 15 mL of aqueous KF solution was added. The mixture was extracted with EtOAc, dried over anhydrous Na2SO4, concentrated to give the crude title compound, which was used without further purification. LCMS (method A): [MH]+=368, tR=5.39 min.

reactant | 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-5,7-difluoro-quinoline | 0.175 mmol, 58 mg | ClC=1C=CC=2N(N1)C(=NN2)CC=2C(=C1C=CC=NC1=CC2F)F | C15H8ClF2N5
reactant | Tributyl-(1-ethoxy-vinyl)stannane | 0.53 mmol, 0.2 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.021 mmol, 14.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-[6-(1-Ethoxy-vinyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-5,7-difluoro-quinoline | C(C)OC(=C)C=1C=CC=2N(N1)C(=NN2)CC=2C(=C1C=CC=NC1=CC2F)F | C19H15F2N5O
